US09278915B2
Compound 115: 3-(4′-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}biphenyl-4-yl)propanoic acid
To a solution of ethyl 3-(4′-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}biphenyl-4-yl)propanoate (0.25 g, 0.6 mmol) in THF was added ethanol and aqueous solution of NaOH and stirred at RT for 2 h, reaction mass was concentrated to remove solvents and diluted with water and neutralized with 1 N HCl and extracted with ethyl acetate, organic layer was washed with water and brine solutions dried over anhydrous Na2SO4 and concentrated to white solid (0.2 g, 83.3%); purity: 99.5%

reactant | ethyl 3-(4′-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}biphenyl-4-yl)propanoate | 0.6 mmol, 0.25 g | CO\N=C(/COC1=CC=C(C=C1)C1=CC=C(C=C1)CCC(=O)OCC)\C1=CC=CC=C1 | C26H27NO4
reactant | EtOH | CCO | C2H6O
reactant | NaOH | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 3-(4′-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}biphenyl-4-yl)propanoic acid | CO\N=C(/COC1=CC=C(C=C1)C1=CC=C(C=C1)CCC(=O)O)\C1=CC=CC=C1 | C24H23NO4
